US07465731B2
1H-NMR (300 MHz, DMSO-d6) δ 1.48-1.74 (6H, m), 1.92-2.04 (1H, m), 2.23-2.36 (1H, m), 3.09-3.64(5H, m), 3.89-4.00 (1H, m), 4.52-4.63 (1H, m), 4.88 (1H, brs), 6.23 (1H, d, J=16 Hz), 6.51-6.62 (4H, m), 7.12-7.19 (2H, m), 7.32-7.41 (2H, m), 7.59-7.66 (1H, m), 8.20(1H, brs), 11.1 (1H, brs). MS (ES+) m/z 409 (M+1). Preparation 505 i) A mixture of 5-chloro-6-methyl-2-pyrazinecarboxylic acid (3.83 g) and thionyl chloride (8.09 mL) was stirred for 3 hours at reflux. After cooling, the reaction mixture was evaporated in vacuo. ii) To a suspension of sodium borohydride (2.52 g) in H2O (110 mL) was added above product in dioxane (10 mL) at 10° C. After stirring for 1 hours at 10° C., the reaction mixture was extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and evaporated in vacuo to give (5-chloro-6-methyl-2-pyrazinyl)methanol (2.36 g). 1H-NMR (300 MHz, CDCl3) δ 2.67 (3H, s), 2.86-2.95 (1H, m), 4.79 (2H, d, J=3 Hz), 8.25 (1H, s). MS (ES+) m/z 159 (M+1). Preparation 506 1) To a mixture of (5-chloro-6-methyl-2-pyrazinyl)methanol (2.35 g), ethyl acetate (50 mL), and dioxane (25 mL) was added manganese(IV) oxide (12.9 g). After stirring for 2 hours at reflux, a resulting precipitate was filtered and the filtrate was evaporated in vacuo. 2) To a mixture of above product and THF (50 mL) was added (carbethoxymethylene)triphenylphosphorane (6.19 g). The reaction mixture was stirred for 6 hours at room temperature, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(5-chloro-6-methyl-2-pyrazinyl)acrylate (863 mg). 1H-NMR (300 MHz, CDCl3) δ 1.35 (3H, t, J=7 Hz), 2.68 (3H, s), 4.29 (2H, q, J=7 Hz), 7.01 (1H, d, J=16 Hz), 7.63 (1H, d, J=16 Hz), 8.26 (1H, s). MS (ES+) m/z 227 (M+1). Preparation 507 1) To a mixture of 6-chloro-3-pyridazinecarbaldehyde (300 mg) and THF (6 mL) was added (carbethoxymethylene)triphenylphosphorane (805 mg). The reaction mixture was stirred for 2 hours at room temperature, and evaporated in vacuo. 2) To a mixture of above product and DMF (10 mL) was added (3R)-1-benzyl-3-pyrrolidinamine (556 mg) and Et3N (0.880 mL). After stirring for 5-hours at 100° C., the reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was washed with brine, dried over MgSO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-3-pyridazinyl)acrylate (237 mg). 1H-NMR (300 MHz, CDCl3) δ 1.33 (3H, t, J=7 Hz), 1.60-1.79 (1H, m), 2.25-2.94 (5H, m), 3.63-3.66 (2H, m), 4.27 (2H, q, J=7 Hz), 4.48-4.60 (1H, m), 5.17-5.23 (1H, m), 6.59 (1H, d, J=9 Hz), 6.61 (1H, d, J=16 Hz), 7.25-7.38 (6H, m), 7.78 (1H, d, J=16 Hz). MS (ES+) m/z 353 (M+1). Preparation 508

reactant | (5-chloro-6-methyl-2-pyrazinyl)methanol | 2.35 g | ClC=1N=CC(=NC1C)CO | C6H7ClN2O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | manganese(IV) oxide | 12.9 g | [O-2].[Mn+4].[O-2]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | ethyl (2E)-3-(5-chloro-6-methyl-2-pyrazinyl)acrylate | 863 mg | ClC=1N=CC(=NC1C)/C=C/C(=O)OCC | C10H11ClN2O2
